US07153968B2
8-(4′-Methanesulfonylmethyl-biphenyl-3-yl)6-(1-methanesulfonyl-1-methyl-ethyl)-quinoline
To a solution of 8-(4′-Bromomethyl-biphenyl-3-yl)-6-(1-methanesulfonyl-1-methyl-ethyl)-quinoline (1.0 eq.) in DMF (0.1M) was added sodium methanesulfinate (1.3 eq.). The mixture was stirred at rt for 2 h, poured in water and extracted with EtOAc (2×). The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated. Flash chromatography (Hex:EA; 1:4) and stirring in EtOAc:Hex:Et2O (1:7:2) afforded the title compound as a white solid after filtration. 1H NMR (400 MHz, acetone-d6): δ 8.96 (dd, 1H), 8.49 (dd, 1H), 8.32 (d, 1H), 8.25 (d, 1H), 8.08 (t, 1H), 7.81–7.75 (m, 4H), 7.63–7.59 (m, 4H), 4.48 (s, 2H), 2.90 (s, 3H), 2.75 (s, 3H), 2.03 (s, 6H).

reactant | 8-(4′-Bromomethyl-biphenyl-3-yl)-6-(1-methanesulfonyl-1-methyl-ethyl)-quinoline | 1.0 eq. | BrCC1=CC=C(C=C1)C1=CC(=CC=C1)C=1C=C(C=C2C=CC=NC12)C(C)(C)S(=O)(=O)C | C26H24BrNO2S
reactant | sodium methanesulfinate | 1.3 eq. | CS(=O)[O-].[Na+]
solvent | DMF | 0.1M | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 8-(4′-Methanesulfonylmethyl-biphenyl-3-yl)6-(1-methanesulfonyl-1-methyl-ethyl)-quinoline | CS(=O)(=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)C=1C=C(C=C2C=CC=NC12)C(C)(C)S(=O)(=O)C | C27H27NO4S2
